US06353006B1
(1S)-1-(Benzylthiomethyl)-2-hydroxyethylamine was made from (L)-S-benzylcysteine methyl ester as described in Method B1b. The 2-hydroxyethylamine was converted to (4S)-2-isopropyl-4-(benzylthiomethyl)-1,3-oxazolidine according to Method B4c, Step 1. The oxazolidine was reduced to N-((1S)-1-(benzylthiomethyl)-2-hydroxyethyl)-N-isobutylamine according to Method B4c, Step 2. The resulting 2-hydroxyethylamine was treated with SOCl2 according to Method B7c to give N-((1S)-1-(benzylthiomethyl)-2-chloroethyl)-N-isobutylammonium chloride. 2-Ethyl-4-cyanophenyl isothiocyanate was reacted with N-((1S)-1-(benzylthiomethyl)-2-chloroethyl)-N-isobutylammonium chloride according to Method C1b to give (4S)-2-(2-ethyl-4-cyanophenylimino)-4-(benzylthiomethyl)-3-isobutyl-1,3-thiazolidine HCl salt.

reactant | 2-Ethyl-4-cyanophenyl isothiocyanate | C(C)C1=C(C=CC(=C1)C#N)N=C=S | C10H8N2S
reactant | N-((1S)-1-(benzylthiomethyl)-2-chloroethyl)-N-isobutylammonium chloride | [Cl-].C(C1=CC=CC=C1)SC[C@@H](CCl)[NH2+]CC(C)C
product | (4S)-2-(2-ethyl-4-cyanophenylimino)-4-(benzylthiomethyl)-3-isobutyl-1,3-thiazolidine HCl salt | Cl.C(C)C1=C(C=CC(=C1)C#N)N=C1SC[C@@H](N1CC(C)C)CSCC1=CC=CC=C1 | InChI=1S/C24H29N3S2.ClH/c1-4-21-12-20(13-25)10-11-23(21)26-24-27(14-18(2)3)22(17-29-24)16-28-15-19-8-6-5-7-9-19;/h5-12,18,22H,4,14-17H2,1-3H3;1H/t22-;/m0./s1
